US07199105B2
To a solution of 4-(3,3-difluoro-propyl)-pyridine-2-carboxylic acid methyl ester (130 mg, 0.6 mmol) (compound 14c R9=3,3-difluoro-propyl in MeOH (3 mL) and water (3 mL) were added cons. HCl (0.25 mL, 3.0 mmol, 5 equiv) and platinum oxide (65 mg). The mixture was purged and charged with hydrogen (1 atm) and stirred overnight. The platinum oxide was removed by filtration and the filtrate was evaporated to give a clear syrup. To the above residue were added 2N NaOH (1.21 mL) and t-butyl alcohol (0.7 mL). The mixture was stirred at rt for 2 hrs. Then di-t-butyl dicarbonate (0.16 g, 0.73 mmol) was added. The mixture was stirred at rt overnight. The solvent was removed under vacuum. The residue was diluted with water (10 mL), was washed with ether (20 mL). The aqueous layer was acidified with 2N HCl to pH=2.0, and extracted with ethyl acetate (2×). The combined organic layers were dried and concentrated to give 4-(3,3-difluoro-propyl)-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester as a clear syrup (163 mg, 88%)

reactant | 4-(3,3-difluoro-propyl)-pyridine-2-carboxylic acid methyl ester | 0.6 mmol, 130 mg | COC(=O)C1=NC=CC(=C1)CCC(F)F | C10H11F2NO2
reactant | HCl | 3.0 mmol, 0.25 mL, 5 equiv | Cl | ClH
reactant | NaOH | 2N, 1.21 mL | [OH-].[Na+]
reactant | di-t-butyl dicarbonate | 0.73 mmol, 0.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | MeOH | 3 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
catalyst | platinum oxide | 65 mg | [Pt]=O
solvent | t-butyl alcohol | 0.7 mL | C(C)(C)(C)O | C4H10O
product | 4-(3,3-difluoro-propyl)-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 163 mg, 88% | C(C)(C)(C)OC(=O)N1C(CC(CC1)CCC(F)F)C(=O)O | C14H23F2NO4
